US04652573
B. 6-phthalimidohexyl acetoacetate
A mixture of 22.1 g (0.09 mol) of N-(6-hydroxyhexyl) phthalimide and 10.2 g (0.08 mol) of ethyl acetoacetate was heated in an oil bath at 145° C. under nitrogen for 15 hours. After drying on high vacuum the residue was subjected to flash chromatography (silica gel, 7:3 petroleum ether/ether). The product was isolated as 12.9 g (75%) of a pale yellow oil b.p. 218°-226° C./0.15 mm. NMR: (CDCl3) w 1.5 (8H, m), 2.21 (3H, s), 3.35 (2H, s), 3.55 (2H, m), 3.99 (2H, t), 7.5 (4H, m).

reactant | N-(6-hydroxyhexyl) phthalimide | 0.09 mol, 22.1 g | OCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H17NO3
reactant | ethyl acetoacetate | 0.08 mol, 10.2 g | C(CC(=O)C)(=O)OCC | C6H10O3
product | 6-phthalimidohexyl acetoacetate | 12.9 g, 75% | C(CC(=O)C)(=O)OCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C18H21NO5
